US07691893B2
Preparation 63: dimethyl 2-(3,4-dichlorophenyl)-2-{2-[(methylsulfonyl)oxy]ethyl}-1,1-cyclopropanedicarboxylate (P63)
In a round-bottomed flask, 3-(3,4-dichlorophenyl)-3-buten-1-yl methanesulfonate (P62, 90.8 g, 308 mmol) was dissolved in chlorobenzene (200 ml) to give a green solution. Rhodium acetate dimer (6.80 g, 15.38 mmol) was added. The suspension was warmed to an internal temperature of +65° C. and dimethyl diazopropanedioate (78 g, 492 mmol, for a reference procedure of preparation see Synthetic Communication 1987, 17 (14), 1709-1716) dissolved in chlorobenzene (150 ml) was added dropwise (during 2.5 hrs), keeping the internal temperature below 65-67° C. At the end of the addition, the mixture was cooled to room temperature. It was diluted with DCM (300 ml) and filtered over a celite pad to separate the catalyst.

reactant | 3-(3,4-dichlorophenyl)-3-buten-1-yl methanesulfonate | 308 mmol, 90.8 g | CS(=O)(=O)OCCC(=C)C1=CC(=C(C=C1)Cl)Cl | C11H12Cl2O3S
reactant | dimethyl diazopropanedioate | [N+](=[N-])=C(C(=O)OC)C(=O)OC | C5H6N2O4
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | Rhodium acetate dimer | 15.38 mmol, 6.80 g | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | dimethyl 2-(3,4-dichlorophenyl)-2-{2-[(methylsulfonyl)oxy]ethyl}-1,1-cyclopropanedicarboxylate | ClC=1C=C(C=CC1Cl)C1(C(C1)(C(=O)OC)C(=O)OC)CCOS(=O)(=O)C | C16H18Cl2O7S
